US07449477B2
Add Pd(dppb)Cl2 (0.0051 g, 0.0085 mmol), 4-hydroxyphenylboronic acid (0.0258 g, 0.187 mmol) and 2M Na2CO3 (0.21 ml, 0.425 mmol) to [2-(7-bromo-isoquinoline-5-sulfonylamino)-ethyl]-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester, (0.101 g, 0.170 mmol) in 3 ml DMF and 0.75 ml MeOH. Heat the reaction mixture at 85° C. for 1 h, then dilute with EtOAc (20 ml) and wash with H2O (2×20 ml) and brine (10 ml). Concentrate the organic layer and chromatograph on silica gel using a gradient of 0-2% MeOH in CH2Cl2 to give 0.093 g of {2-[7-(4-hydroxy-phenyl)-isoquinoline-5-sulfonylamino]-ethyl}-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester, as a yellow solid in 90% yield. ES Positive Ion MS [M+H]+ ion observed: m/z 607. (Used in Example 98).

reactant | 4-hydroxyphenylboronic acid | 0.187 mmol, 0.0258 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | Na2CO3 | 0.425 mmol, 2M, 0.21 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | [2-(7-bromo-isoquinoline-5-sulfonylamino)-ethyl]-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester | 0.170 mmol, 0.101 g | C(C)(C)(C)OC(N(CCCC1=CC=C(C=C1)[N+](=O)[O-])CCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)Br)=O | C25H29BrN4O6S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 0.75 ml | CO | CH4O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | {2-[7-(4-hydroxy-phenyl)-isoquinoline-5-sulfonylamino]-ethyl}-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester | 0.093 g, 90% yield | C(C)(C)(C)OC(N(CCCC1=CC=C(C=C1)[N+](=O)[O-])CCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=C(C=C1)O)=O | C31H34N4O7S
